US05032594
1-benzyl-3-propyl-1,2,3,4,6,7-hexahydro-5H-imidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4-dione
Sodium hydride (60% oil, 0.8 g) was added in portions to a stirring solution of 3-amino-7-benzyl-2-(2-chloroethyl) -5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (4.9 g) under cooling with ice bath. The mixture was stirred for 17 hours and was concentrated to dryness. The residue was triturated with water and the resulting crystals were collected by filtration, washed with water and dried.

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | 3-amino-7-benzyl-2-(2-chloroethyl) -5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 4.9 g | NC=1N(N=C2N(C(N(C(C21)=O)CCC)=O)CC2=CC=CC=C2)CCCl | C17H20ClN5O2
product | 1-benzyl-3-propyl-1,2,3,4,6,7-hexahydro-5H-imidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(N(C(C=2C1=NN1C2NCC1)=O)CCC)=O | C17H19N5O2
